US07179934B2
(2S,5R)-2-tert-Butyl-5-((S)-2-ethyl-pentyl)-3-methyl-4-oxo-tetrahydro-pyrimidine-1-carboxylic acid methyl ester
To a −78° C. stirred solution of (S)-2-tert-butyl-3-methyl-4-oxo-tetrahydro-pyrimidine-1-carboxylic acid methyl ester (1.04 g, 4.57 mmol) in dry THF (15 mL) was added NaHMDS (5.03 mL, 1.0 M in THF) dropwise. The reaction was stirred at −78° C. for 1 hour and then a solution of (S)-3-Iodomethyl-hexane (1.24 g, 5.48 mmol) in dry THF (5 mL) was added dropwise. The reaction was stirred at this temperature for 2 hours and than was placed in a −10° C. refrigerator overnight. The reaction was quenched with sat. NH4Cl (20 mL) and was allowed to warm to room temperature. The layers were separated and the aqueous layer was extracted with EtOAc (3×15 mL). The organic extracts were combined and washed with brine (2×15 mL). The organic phase was dried over MgSO4, filtered and concentrated under reduced pressure. The product was purified by chromatography using hexanes/EtOAc (10–>20%) to yield 0.185 g (12%) of pure product: 1H NMR (400 MHz, CD3OD) 8 ppm 0.9 (m, 6 H), 1.3 (m, 5 H), 1.4 (m, 3 H), 1.7 (m, 1 H), 2.5 (m, 1 H), 2.9 (d, J=6.6 Hz, 2 H). MS: M+1 (328).

reactant | (S)-2-tert-butyl-3-methyl-4-oxo-tetrahydro-pyrimidine-1-carboxylic acid methyl ester | 4.57 mmol, 1.04 g | COC(=O)N1[C@H](N(C(CC1)=O)C)C(C)(C)C | C11H20N2O3
reactant | NaHMDS | 1.0 M, 5.03 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (S)-3-Iodomethyl-hexane | 5.48 mmol, 1.24 g | IC[C@@H](CC)CCC | C7H15I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (2S,5R)-2-tert-Butyl-5-((S)-2-ethyl-pentyl)-3-methyl-4-oxo-tetrahydro-pyrimidine-1-carboxylic acid methyl ester | 0.185 g, 12% | COC(=O)N1[C@H](N(C([C@@H](C1)C[C@H](CCC)CC)=O)C)C(C)(C)C | C18H34N2O3
